US07981879B2
To a solution of tert-butyl 2-{[(4-fluorobenzyl)amino]carbonyl}-3-hydroxy-9-(hydroxymethyl)-4-oxo-4,6,7,9-tetrahydro-8H-pyrazino[1,2-a]pyrimidine-8-carboxylate in dry CHCl3, triethylamine (2 eq.) was added and mixture was stirred ten minutes at room temperature. Methanesulfonyl chloride (1.5 eq.) was slowly added and the resulting mixture was aged at room temperature for 1.5 hours to afford tert-butyl 2-{[(4-fluorobenzyl)amino]carbonyl}-3-hydroxy-9-{[(methylsulfonyl)oxy]methyl}-4-oxo-4,6,7,9-tetrahydro-8H-pyrazino[1,2-a]pyrimidine-8-carboxylate as the main product (monitored by LC-MS). MS (ES) C22H27FN4O8S requires 526. Found: 527 (M+H+). The reaction mixture was concentrated under vacuum at 30° C. and the solvent switched to dry acetonitrile. The insoluble material was filtered off and to the filtrated 5 equivalents of N-benzylmethylamine were added. The mixture was warmed at 110° C. upon microwave irradiation for 30 minutes then stirred at room temperature for further 36 hours. The mixture was concentrated by rotary evaporation and the resulting residue, dissolved in the minimum amount of MeOH, was carefully acidified with some drops of glacial acetic acid applied on cation-exchange resin. The resin was washed with MeOH and the crude product was eluted with 1M ammonia in methanol. The pooled eluants were concentrated to dryness under reduced pressure to get tert-butyl 9-{[benzyl(methyl)amino]methyl}-2-{[(4-fluorobenzyl)amino]carbonyl}-3-hydroxy-4-oxo-4,6,7,9-tetrahydro-8H-pyrazino[1,2-a]pyrimidine-8-carboxylate as a brown oil. MS (ES) C29H34FN5O5 requires 551. Found: 552 (M+H+).

reactant | tert-butyl 2-{[(4-fluorobenzyl)amino]carbonyl}-3-hydroxy-9-(hydroxymethyl)-4-oxo-4,6,7,9-tetrahydro-8H-pyrazino[1,2-a]pyrimidine-8-carboxylate | FC1=CC=C(CNC(=O)C=2N=C3N(C(C2O)=O)CCN(C3CO)C(=O)OC(C)(C)C)C=C1 | C21H25FN4O6
reactant | triethylamine | 2 eq. | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 1.5 eq. | CS(=O)(=O)Cl | CH3ClO2S
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 2-{[(4-fluorobenzyl)amino]carbonyl}-3-hydroxy-9-{[(methylsulfonyl)oxy]methyl}-4-oxo-4,6,7,9-tetrahydro-8H-pyrazino[1,2-a]pyrimidine-8-carboxylate | FC1=CC=C(CNC(=O)C=2N=C3N(C(C2O)=O)CCN(C3COS(=O)(=O)C)C(=O)OC(C)(C)C)C=C1 | C22H27FN4O8S
